US08022221B2
Step 4. 4-Phenyl-N-(2-(2-(pyridin-4-yl)phenoxy)pyrimidin-5-yl)phthalazin-1-amine
In an argon-purged sealed tube, N-(2-(2-bromophenoxy)pyrimidin-5-yl)-4-phenylphthalazin-1-amine (150 mg, 319 μmol), pyridin-4-ylboronic acid (157 mg, 1.27 μmol), Pd(DPPF)Cl2 (47 mg, 64 μmol), sodium carbonate (239 μl, 478 μmol), and 1,4-dioxane (1.60 ml, 319 μmol) were added. The reaction was stirred at RT for 5 min. The tube was sealed and heated to 100° C. for 18 h. After 16 h, the reaction was cooled to RT, diluted with EtOAc and 10 mL of water. The product was extracted into EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated. The product was purified by column chromatography on silica gel using 60:40 DCM:(90:10:1 DCM:MeOH:NH4OH). The resulting light brown solid was dissolved in 15 mL of DCM, the solvent were removed under vacuum, affording the title compound as a light brown solid. MS Calcd for C29H20N6O: [M]+=468. Found: [M+H]+=469.

reactant | N-(2-(2-bromophenoxy)pyrimidin-5-yl)-4-phenylphthalazin-1-amine | 319 μmol, 150 mg | BrC1=C(OC2=NC=C(C=N2)NC2=NN=C(C3=CC=CC=C23)C2=CC=CC=C2)C=CC=C1 | C24H16BrN5O
reactant | pyridin-4-ylboronic acid | 1.27 μmol, 157 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 478 μmol, 239 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 319 μmol, 1.60 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(DPPF)Cl2 | 64 μmol, 47 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 4-Phenyl-N-(2-(2-(pyridin-4-yl)phenoxy)pyrimidin-5-yl)phthalazin-1-amine | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC=1C=NC(=NC1)OC1=C(C=CC=C1)C1=CC=NC=C1 | C29H20N6O
